US06506901B2
4-((2S)-2-Hydroxy-3-{[1-(4-methoxy-benzenesulfonyl)-piperidin-4-ylmethyl]-amino}-propoxy)-phenol
A mixture of t-butyl-[4-(2S)-oxiranylmethoxy-phenoxy]-diphenylsilane (0.078 g, 0.19 mmol) and an excess of and (4-aminomethyl-1-piperidinyl)-4-methoxybenzene-sulfonamide (0.109 g, 0.38 mmol) was heated as a solution in methanol at 60° C. for 24 hours. The reaction mixture was preabsorbed on silica gel and purified by flash chromatography (CH2Cl2—CH3OH, 19:1) to give the intermediate silyl-protected product. Deprotection to the phenol was accomplished by treatment of the silyl intermediate with 1M TBAF in THF. After stirring 15 minutes the solvent was evaporated and the product isolated by flash chromatography (CH2Cl2—CH3OH, 12:1) to give 0.049 g of the title compound as a white solid.

reactant | t-butyl-[4-(2S)-oxiranylmethoxy-phenoxy]-diphenylsilane | 0.19 mmol, 0.078 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OC[C@H]1OC1 | C25H28O3Si
reactant | (4-aminomethyl-1-piperidinyl)-4-methoxybenzene-sulfonamide | 0.38 mmol, 0.109 g | NCC1CCN(CC1)C1=C(C=CC(=C1)OC)S(=O)(=O)N | C13H21N3O3S
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | methanol | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 4-((2S)-2-Hydroxy-3-{[1-(4-methoxy-benzenesulfonyl)-piperidin-4-ylmethyl]-amino}-propoxy)-phenol | 0.049 g | O[C@H](COC1=CC=C(C=C1)O)CNCC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)OC | C22H30N2O6S
